US09233104B2
A solution of 3-bromo-5-nitropyridin-4-amine (LXIX) (790 mg, 3.62 mmol), 3-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (LXX) (1.01 g, 4.35 mmol), K3PO4 (1.15 g, 5.44 mmol), water (10 mL) and DMF (10 mL) was degassed with argon thrice. Pd(PPh3)4 (209 mg, 0.18 mmol) was added to the reaction and the solution was heated at 90° C. for 4 h. The reaction was passed through a pad of Celite and then concentrated under reduced pressure. The reaction mixture was concentrated and the residue was taken up in EtOAc. The organic extract was washed with water, dried and concentrated under vacuum. The crude product was purified on a silica gel column (100% CHCl3→1.5:98.5 MeOH[7N NH3]:CHCl3) to give 5′-fluoro-5-nitro-3,3′-bipyridin-4-amine (LXXI) as a yellow solid (626 mg, 2.67 mmol, 74% yield). 1H NMR (DMSO-d6, 500 MHz) δ ppm 7.62 (brs, 2H), 7.86-7.89 (m, 1H), 8.15 (s, 1H), 8.47-8.48 (m, 1H), 8.67 (d, J=2.7 Hz, 1H), 9.07 (s, 1H); ESIMS found C10H7FN4O2 m/z 235 (M+H).

reactant | 3-bromo-5-nitropyridin-4-amine | 3.62 mmol, 790 mg | BrC=1C=NC=C(C1N)[N+](=O)[O-] | C5H4BrN3O2
reactant | 3-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 4.35 mmol, 1.01 g | FC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C11H15BFNO2
reactant | K3PO4 | 5.44 mmol, 1.15 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.18 mmol, 209 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5′-fluoro-5-nitro-3,3′-bipyridin-4-amine | 2.67 mmol, 626 mg, 74% yield | FC=1C=C(C=NC1)C=1C=NC=C(C1N)[N+](=O)[O-] | C10H7FN4O2
